data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_229296_0,[C@@:1]([C:2]([H:13])([H:14])[H:15])([C:3]([O:6][H:9])=[O:7])([N:4]([H:10])[H:11])[C:5](=[O:8])[H:12]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:3](/[O:6][H:9])[O:7][C:5](=[O:8])[H:12])[N:4]([H:10])[H:11],53.74976749998069
MR_34163_1,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:11])([H:15])[H:16])(/[C:4]([N:5]([H:8])[H:9])=[N:6]/[H:10])[H:7]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:11])([H:15])[H:16])=[C:4]([N:5]([H:8])[H:9])[N:6]([H:7])[H:10],64.63751999999275
MR_561747_0,[C:1]([C:3]([N:2](/[C:4]([N:6]([H:12])[H:13])=[C:8](\[N:7]([H:14])[H:15])[H:16])[N:5]([H:10])[H:11])=[O:9])([H:17])([H:18])[H:19]>>[C:1]([C:3]([C:8](/[C:4](=[N:2]/[N:5]([H:10])[H:11])[N:6]([H:12])[H:13])([N:7]([H:14])[H:15])[H:16])=[O:9])([H:17])([H:18])[H:19],37.14611749998952
MR_188391_1,[C:1]([N:4]([H:9])[H:10])([C:5]([C:2]([C:3]([H:14])([H:15])[H:16])([H:12])[H:13])([O:7][H:8])[H:11])=[O:6]>>[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([H:12])[H:13])([N:4]([H:9])[H:10])([C:5](=[O:7])[H:11])[O:6][H:8],55.37812999997144
MR_318489_0,[C:1]([C:2]([C:4](=[O:6])[H:10])[N:5][H:7])([N:3]([H:8])[H:9])([H:11])[H:12]>>[C:1]([N:3]([H:8])[H:9])([C@@:4]1([H:10])/[C:2](=[N:5]/[H:7])[O:6]1)([H:11])[H:12],65.27568749998665
MR_8476_0,[C:1](/[C:5](=[C:4](\[N:2]([N:3]([H:7])[H:8])[H:6])[H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:5](/[C:4](=[N:2]/[N:3]([H:7])[H:8])[H:9])([H:6])[H:10])([H:11])([H:12])[H:13],62.35341999999896
MR_105255_1,[C:1]([C:2](/[C:5](=[N:6]/[C:3]([H:14])([H:15])[H:16])[H:9])([H:12])[H:13])([C:4](=[O:7])[H:8])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[C:2]([H:12])([H:13])[C:5]1([N:6]([C:3]([H:14])([H:15])[H:16])[C:4](=[O:7])[H:8])[H:9],65.05229749997994
MR_88589_2,[C:1]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])([N:5](/[C:6](=[N:7]/[C:2]([H:11])([H:12])[H:13])[H:10])[H:8])[H:9]>>[C:1]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])([N:7]([C:2]([H:11])([H:12])[H:13])/[C:6](=[N:5]\[H:8])[H:10])[H:9],69.56402250003876
MR_158107_2,[C:1]([N:3](/[C:4]([N:5]([H:9])[H:10])=[C:6](\[C:2]([H:15])([H:16])[H:17])[H:11])[O:7][H:8])([H:12])([H:13])[H:14]>>[C:1](/[N:3]=[C:4](\[N:5]([H:9])[H:10])[C:6]([C:2]([H:15])([H:16])[H:17])([O:7][H:8])[H:11])([H:12])([H:13])[H:14],44.89135000005277
MR_109297_0,[C:1]([C:2]([C:3]([C:7]([N:8]([H:12])[H:13])=[O:10])([H:16])[H:17])([H:14])[H:15])([C:4]([C:6]([H:23])([H:24])[H:25])([H:18])[H:19])([C:5]([H:20])([H:21])[H:22])[O:9][H:11]>>[C:1]([C:2]([C:3]([C:7]([C:4]([C:6]([H:23])([H:24])[H:25])([H:18])[H:19])([N:8]([H:12])[H:13])[O:10][H:11])([H:16])[H:17])([H:14])[H:15])([C:5]([H:20])([H:21])[H:22])=[O:9],72.57225750000558
MR_643989_2,[C:1]([N:2]([H:9])[H:10])([N:3]([H:11])[H:12])([O:4][O:5][H:7])[O:6][H:8]>>[C:1]([N:2]([H:9])[H:10])([O:4][N:3]([H:11])[H:12])([O:5][H:7])[O:6][H:8],50.02367250004284
MR_508443_0,[N:1]([C:3]([N:2]([N:4]([H:11])[H:12])[H:10])([C:5](=[C:6]([H:14])[H:15])[H:13])[O:8][H:9])=[O:7]>>[N:1]([C:3]([N:2]([N:4]([H:11])[H:12])[H:10])=[O:8])([C:5](=[C:6]([H:14])[H:15])[H:13])[O:7][H:9],33.20604500002119
MR_32010_0,[C:1]([C:3](/[C:2](=[C:5](/[N:4]([H:9])[H:10])[H:11])[O:6][H:8])=[O:7])([H:12])([H:13])[H:14]>>[C:1]([C:3]1=[C:2]([O:6][H:8])[C@:5]([N:4]([H:9])[H:10])([H:11])[O:7]1)([H:12])([H:13])[H:14],47.08571750000559
MR_220237_1,[N:1](\[N:2]([H:8])[H:9])=[N:5]/[C:3]([N:6]=[C:4]([H:11])[H:12])([H:7])[H:10]>>[N:1]([N:2]([H:8])[H:9])(/[N:5]=[C:3](/[N:6]=[C:4]([H:11])[H:12])[H:10])[H:7],62.06853499998701
MR_220128_1,[C:1](/[N:3]=[C:5](/[C:7]1([H:13])[C:6]([C:4]([C:2]([H:17])([H:18])[H:19])=[C:8]([H:20])[H:21])([H:12])[N:9]1[H:10])[H:11])([H:14])([H:15])[H:16]>>[C:1]([N:3]([C:4]([C:2]([H:17])([H:18])[H:19])=[C:8]([H:20])[H:21])/[C:5](=[C:7]([C:6](=[N:9]/[H:10])\[H:12])/[H:13])[H:11])([H:14])([H:15])[H:16],59.92813250000495
MR_373495_1,[C:1](/[C:4]([N:3](/[C:7](=[C:5](\[C:2]([H:18])([H:19])[H:20])[N:6]([H:11])[H:12])[H:14])[O:8][H:10])=[N:9]\[H:13])([H:15])([H:16])[H:17]>>[C:1](/[C:4]([C:5]([C:2]([H:18])([H:19])[H:20])([N:6]([H:11])[H:12])/[C:7](=[N:3]/[O:8][H:10])[H:14])=[N:9]\[H:13])([H:15])([H:16])[H:17],66.16610999998571
MR_468831_0,[C:1]([C:3]1([C:6](=[O:9])[H:14])[C:2]([N:4]([H:10])[H:11])(/[C:7](=[N:5]/[H:13])[H:15])[N:8]1[H:12])([H:16])([H:17])[H:18]>>[C:1](/[C:3]([C:6](=[O:9])[H:14])=[N:8]/[C:2]([N:4]([H:10])[H:11])=[C:7](\[N:5]([H:12])[H:13])[H:15])([H:16])([H:17])[H:18],37.5169699999806
MR_396179_1,[C:1]([C:2]([H:12])([H:13])[H:14])([C:5]([C:3]([H:15])([H:16])[H:17])([C:4]([O:7][H:11])=[O:8])[O:9][H:10])=[O:6]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([C:5]([C:4]([O:7][H:11])=[O:8])=[O:9])[O:6][H:10],46.8140099999782
MR_86348_0,[C:1]1([N:5]([H:8])[H:9])([O:6][C:4]([H:14])([H:15])[H:16])[C:2]([H:10])([H:11])[O:7][C:3]1([H:12])[H:13]>>[C@@:1]1([C:3]([O:6][C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([N:5]([H:8])[H:9])[C:2]([H:10])([H:11])[O:7]1,66.93354249997427
